US08034938B2
(11R)-11-(Phenoxymethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
[(11S)-6-Amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methanol (358 mg, 1.32 mmol) was suspended in 10 mL of dry THF and cooled to 0° C. under N2. Triphenylphosphine (383 mg, 1.46 mmol) and phenol (137 mg, 1.46 mmol) were then added and the white slurry was stirred for 20 minutes. Diisopropyl azodicarboxylate (DIAD, 287 μL, 1.46 mmol) was then slowly added. After 1.5 hours, the reaction was allowed to warm to ambient temperature and stirring was continued overnight. The reaction mixture was then concentrated under reduced pressure and purified by column chromatography (SiO2, EtOAc then 10-30% CMA/CHCl3) to give a white solid. A second column chromatography (SiO2, 0-20% CMA/CHCl3) gave the product as a glassy solid. The solid was stirred in Et2O and filtered to give 62 mg of the title compound as a white powder, mp 189-195° C.

reactant | [(11S)-6-Amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methanol | 1.32 mmol, 358 mg | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)CO | C14H14N4O2
reactant | Triphenylphosphine | 1.46 mmol, 383 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 1.46 mmol, 137 mg | C1(=CC=CC=C1)O | C6H6O
reactant | Diisopropyl azodicarboxylate | 1.46 mmol, 287 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (11R)-11-(Phenoxymethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | O(C1=CC=CC=C1)C[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C20H18N4O2
